US04168964
5-Methyl-2-m-tolyl-4-imidazolecarboxaldhyde
A mixture of 5-methyl-2-m-tolyl-4-imidazolemethanol (13.0 gm., 0.064 mole), activated manganese dioxide (65 gm.) and methylene chloride (200 ml.) is stirred at room temperature for 20 hours. The reaction mixture is then filtered, the solvent removed in vacuo to afford 9.1 gm. (0.045 mole) of peach-colored solid.

reactant | 5-methyl-2-m-tolyl-4-imidazolemethanol | 0.064 mole, 13.0 gm | CC1=C(N=C(N1)C=1C=C(C=CC1)C)CO | C12H14N2O
catalyst | manganese dioxide | 65 gm | [O-2].[O-2].[Mn+4]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 5-Methyl-2-m-tolyl-4-imidazolecarboxaldhyde | CC1=C(N=C(N1)C=1C=C(C=CC1)C)C=O | C12H12N2O
